US06147114
(a) Benzyl 2(R) -bromo-4-metylpentanoate
2(R)-Bromo-4-metylpentanoic acid (28.5 g, 146 mmol), benzyl alcohol (18.1 ml, 175 mmol) and 4-dimethylaminopyridine (1.90 g, 14.6 mmol) were dissolved in CH2Cl2 (140 ml), and added with EDC (35.6 g, 175 mmol) under ice-cooling and stirring. The mixture was stirred under ice-cooling for 1 hour and further at room temperature overnight and washed for separation with water, a saturated aqueous solution of NaHCO3 and then a saturated aqueous solution of NaCl two times respectively. The organic layer was dried over anhydrous MgSO4, evaporated under reduced pressure and purified by column chromatography (silica gel; 700 g, elution with the mixed solvent; n-hexane : AcOEt=40:1), giving the title compound (32.0 g, 77%) of a colorless oil.

reactant | 2(R)-Bromo-4-metylpentanoic acid | 146 mmol, 28.5 g | Br[C@@H](C(=O)O)CC(C)C | C6H11BrO2
reactant | benzyl alcohol | 175 mmol, 18.1 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | EDC | 175 mmol, 35.6 g
catalyst | 4-dimethylaminopyridine | 14.6 mmol, 1.90 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 140 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 2(R) -bromo-4-metylpentanoate | 32.0 g, 77% | Br[C@@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C13H17BrO2
